US08106221B2
tert-butyl 3-(3-chlorophenyl)-3-hydroxypropyl(isopropyl)carbamate was obtained using procedures analogous to Preparation A, Steps 1-6, using isopropylamine in Step 1 and NaBH4 in Step 6. To a 0° C. solution of tert-butyl 3-(3-chlorophenyl)-3-hydroxypropyl(isopropyl)carbamate (158 mg, 0.48 mmol) in THF (5 mL) was added NaH (60 mg, 1.45 mmol) and the reaction was allowed to stir for 5 minutes. 3-methoxypropyl methanesulfonate (810 mg, 4.8 mmol) was then added and the reaction was heated to reflux for 2.5 hrs. After cooling to room temperature, the reaction was quenched with saturated ammonium chloride solution at 0° C. The aqueous layer was extracted with EtOAc (2×). The combined organic layers were dried over MgSO4, filtered, evaporated and purified via ISCO to afford tert-butyl 3-(3-chlorophenyl)-3-(3-methoxypropoxy)propyl(isopropyl)carbamate. MS ESI+ve m/z 422 (M+Na).

reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | NaBH4 | [BH4-].[Na+]
reactant | tert-butyl 3-(3-chlorophenyl)-3-hydroxypropyl(isopropyl)carbamate | 0.48 mmol, 158 mg | ClC=1C=C(C=CC1)C(CCN(C(OC(C)(C)C)=O)C(C)C)O | C17H26ClNO3
reactant | NaH | 1.45 mmol, 60 mg | [H-].[Na+]
reactant | 3-methoxypropyl methanesulfonate | 4.8 mmol, 810 mg | CS(=O)(=O)OCCCOC | C5H12O4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(3-chlorophenyl)-3-(3-methoxypropoxy)propyl(isopropyl)carbamate | ClC=1C=C(C=CC1)C(CCN(C(OC(C)(C)C)=O)C(C)C)OCCCOC | C21H34ClNO4
